US05013829
To a solution of 8-bromo-2'-deoxyadenosine (1.85 g, 5.61 mmol) in methanol (100 ml) was added sodium methoxide (0.908 g, 16.8 mmol), and the mixture was refluxed for 20 h. The solvent was evaporated and the residue chromatographed on silica gel (5% methanol/chloroform) to give 0.865 g (55%) of 2'-deoxy-8-methoxyadenosine: 1H NMR (Me2SO-d6) δ2.11 (m, 2H), 3.53 (m, 2H), 3.81 (m, 1H), 4.10 (s, 3H), 4.38 (m, 1H), 5.24 (m, 2H), 6.18 (t, 1H, J=6.8 Hz), 6.89 (br.s, 2H), 8.02 (s, 1H); UV (H2O) λmax 261 nm. 2'Deoxy-8-methoxyadenosine was converted to 2',3'-dideoxy-8-methoxydenosine (IX) by using in sequence Procedures A (64%), D (83%), and E and F (79%): mp 197°-799° C.; 13C NMR (Me2SO-d6) δ27.0, 28.9, 57.2, 64.0, 81.1, 83.3, 114.8, 148.8, 150.7, 153.9, 154.3; 1H NMR (Me2SO-d6) δ2.16 (m, 4H), 3.51 (m, 2H), 4.10 (br.s, 4H), 5.01 (m, 1H), 6.08 (m, 1H), 6.85 (br.s, 2H), 8.03 (s, 1H); UV (H2O) λmax 260 nm (ε11040); FAB HRMS obsd (M+ +H) 266.1273, calcd for C11H15N5O3 266.1253.

reactant | 8-bromo-2'-deoxyadenosine | 5.61 mmol, 1.85 g | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C10H12BrN5O3
reactant | sodium methoxide | 16.8 mmol, 0.908 g | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2'-deoxy-8-methoxyadenosine | 0.865 g, 55% | COC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C11H15N5O4
